### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/AffineSpace): show small finite families have proper affine span

### PR DESCRIPTION
**Pull request by yuanyi-350**

### CODE REVIEW

File: Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean [hunk 1]
```diff
@@ -217,6 +217,16 @@ theorem finrank_vectorSpan_image_finset_le [DecidableEq P] (p : ι → P) (s : F
     tsub_le_iff_right, ← hc]
   apply Finset.card_image_le
 
+lemma affineSpan_image_finset_ne_top_of_card_le [DecidableEq P] (p : ι → P) (s : Finset ι)
+    (hs : #s ≤ finrank k V) : affineSpan k (s.image p : Set P) ≠ ⊤ := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean]:
```suggestion
lemma affineSpan_image_finset_ne_top_of_card_le [DecidableEq P] {s : Set ι} (hsfin : s.Finite)
     (hs : s.encard ≤ finrank k V) (p : ι → P) : affineSpan k (p '' s) ≠ ⊤ := by
```

File: Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean [hunk 2]
```diff
@@ -217,6 +217,16 @@ theorem finrank_vectorSpan_image_finset_le [DecidableEq P] (p : ι → P) (s : F
...
+  cases hc : #s with
+  | zero => simp [Finset.card_eq_zero.mp hc]
+  | succ n =>
+      intro htop
+      have hdim := finrank_vectorSpan_image_finset_le k p s hc
+      rw [← direction_affineSpan, htop, direction_top, finrank_top] at hdim
+      lia
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean]: The proof should appeal to the analogous lemma for `Submodule.span`

Comment (yuanyi-350) [reply Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean]: I'm curious about the motivation behind this suggestion. I tried implementing it, but it doesn't seem to make the proof any simpler.

File: Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean [hunk 3]
```diff
@@ -217,6 +217,22 @@ theorem finrank_vectorSpan_image_finset_le [DecidableEq P] (p : ι → P) (s : F
     tsub_le_iff_right, ← hc]
   apply Finset.card_image_le
 
+lemma affineSpan_image_finset_ne_top_of_card_le {s : Set ι} (hsfin : s.Finite)
+    (hs : s.encard ≤ finrank k V) (p : ι → P) : affineSpan k (p '' s) ≠ ⊤ := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean]:
```suggestion
lemma affineSpan_image_ne_top_of_encard_le_finrank {s : Set ι} (hsfin : s.Finite)
    (hs : s.encard ≤ finrank k V) (p : ι → P) : affineSpan k (p '' s) ≠ ⊤ := by
```

Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean]: Do we already have the `range` version? If not, can you add it?

File: Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean [hunk 4]
```diff
@@ -217,6 +217,28 @@ theorem finrank_vectorSpan_image_finset_le [DecidableEq P] (p : ι → P) (s : F
...
+  intro htop
+  apply (span_lt_top_of_card_lt_finrank hcard).ne
+  rw [← vectorSpan_image_eq_span_vsub_set_right_ne k p hi,
+    ← direction_affineSpan, htop, direction_top]
+
+lemma affineSpan_range_ne_top_of_card_le_finrank [Fintype ι]
+    (hι : Fintype.card ι ≤ finrank k V) (p : ι → P) : affineSpan k (Set.range p) ≠ ⊤ := by
+  have : affineSpan k (p '' Set.univ) ≠ ⊤ :=
+    affineSpan_image_ne_top_of_encard_le_finrank k Set.finite_univ (by simpa) p
+  simpa
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean]:
```suggestion
  simpa using
    affineSpan_image_ne_top_of_encard_le_finrank k Set.finite_univ (by simpa) p
```
no?

Comment (yuanyi-350) [reply Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean]: I used to think the `simpa` embedding doesn't follow the conventions.

File: Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean [hunk 5]
```diff
@@ -217,6 +217,27 @@ theorem finrank_vectorSpan_image_finset_le [DecidableEq P] (p : ι → P) (s : F
...
+    calc
+    _ ≤ (s \ {i}).encard := by grind [Set.encard_image_le]
+    _ < _ := (hsfin.sdiff.encard_lt_encard (by grind)).trans_le hs
+  intro htop
+  apply (span_lt_top_of_card_lt_finrank hcard).ne
+  rw [← vectorSpan_image_eq_span_vsub_set_right_ne k p hi,
+    ← direction_affineSpan, htop, direction_top]
+
+lemma affineSpan_range_ne_top_of_card_le_finrank [Fintype ι]
+    (hι : Fintype.card ι ≤ finrank k V) (p : ι → P) : affineSpan k (Set.range p) ≠ ⊤ := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean]:
```suggestion
lemma affineSpan_range_ne_top_of_card_le_finrank (hι : ENat.card ι ≤ finrank k V) (p : ι → P) :
    affineSpan k (Set.range p) ≠ ⊤ := by
```

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
